US08138197B2
[4-(tert-butoxycarbonyl)-2,6-diethoxyphenyl]boronic acid
To a stirred solution of tert-butyl 4-bromo-3,5-diethoxybenzoate (1 g) in THF (20 ml) was added n-BuLi (1.6M in hexane, 3.6 ml) at −78° C. under argon atmosphere and stirred at the same temperature for 1 h. To the mixture was added B(OMe)3 (777 ul) at −78° C. and the mixture was allowed to warm up to at room temperature. After stirring for further 1 h, the mixture was poured into ice-HCl aq., extracted with EtOAc, washed with brine and dried over sodium sulphate. After filtration and concentration, the residue was purified by silicagel column chromatography (hexane/EtOAc) to give the title product as a colorless solid.

reactant | tert-butyl 4-bromo-3,5-diethoxybenzoate | 1 g | BrC1=C(C=C(C(=O)OC(C)(C)C)C=C1OCC)OCC | C15H21BrO4
reactant | n-BuLi | 1.6M, 3.6 ml | [Li]CCCC
reactant | B(OMe)3 | 777 ul | B(OC)(OC)OC | C3H9BO3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | [4-(tert-butoxycarbonyl)-2,6-diethoxyphenyl]boronic acid | C(C)(C)(C)OC(=O)C1=CC(=C(C(=C1)OCC)B(O)O)OCC | C15H23BO6
